US04735937
A solution of 11.0 g of 2,2-dimethyl-6β-(N-phenylacetyl-amino)-3-(N-2,2,2-trichloroethoxycarbonyl-amino)-penam in a mixture of 240 ml of anhydrous methylene chloride and 25.6 ml of pyridine is treated with 166 ml of a 10% strength solution of phosphorus pentachloride in methylene chloride under a nitrogen atmosphere -10° C., and is subsequently stirred for 30 minutes at 0° C. 120 ml of absolute methanol are then added whilst cooling strongly (-10° C.) and the mixture is stirred for a further 2 hours. 80 ml of water are added, the pH value (measured in samples diluted with water) is adjusted to 3.3 with about 9 ml of a 2N aqueous sodium hydroxide solution, and the reaction is allowed to continue for one hour at 0° C. and a further hour at 20° C. The mixture is then poured out into 500 ml of a 1M aqueous dipotassium hydrogen phosphate buffer solution whilst stirring, and the pH value is adjusted from 6.5 to 7.0 by adding 50% strength aqueous tripotassium phosphate solution. The aqueous phase is separated off and twice washed with 200 ml of methylene chloride at a time; the three organic solutions are each twice washed with water, combined, dried over sodium sulphate and evaporated under reduced pressure. The crystalline residue is taken up in 40 ml of a 1:1 mixture of benzene and hexane; the mixture is cooled for 15 minutes at 0° C. and the precipitate is filtered off. 6β-Amino-2,2-dimethyl-3-(N-2,2,2-trichloroethoxycarbonyl-amino)-penam is thus obtained, melting at 179°-180° C. (corrected); infrared absorption spectrum: characteristic bands (in methylene chloride) at 2.90μ, 5.58μ, 6.62μ, 7.17μ, 7.27μ, 8.32μ, 8.46μ, 8.82μ, 9.25μ, and 9.62μ; (in Nujol) at 2.95μ, 3.01μ, 3.11μ, 5.64μ, 5.80μ, 6.35μ, 7.60μ, 7.87μ, 8.00μ, 8.27μ, 8.65μ, 8.70μ, 9.16μ, and 9.57μ; thin layer chromatogram (silica gel): Rf=0.17 (in the system toluene/acetone, 8:2) and Rf=0.43 (in the system toluene/acetone, 6:4); characteristic yellow colouration with ninhydrine-collidine (free amino group).

reactant | 2,2-dimethyl-6β-(N-phenylacetyl-amino)-3-(N-2,2,2-trichloroethoxycarbonyl-amino)-penam | 11.0 g | CC1(S[C@H]2N(C1NC(=O)OCC(Cl)(Cl)Cl)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)C | C18H20Cl3N3O4S
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | dipotassium hydrogen phosphate | 1M | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | tripotassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | methylene chloride | 240 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 25.6 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | water | 80 ml | O | H2O
solvent | methanol | 120 ml | CO | CH4O
product | 6β-Amino-2,2-dimethyl-3-(N-2,2,2-trichloroethoxycarbonyl-amino)-penam | N[C@H]1[C@@H]2N(C(C(S2)(C)C)NC(=O)OCC(Cl)(Cl)Cl)C1=O | C10H14Cl3N3O3S
